US07470710B2
(RS)-1-(2-Benzothiazol-2-ylmethylpiperidin-1-yl-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]-methanone
2-Piperidin-2-ylmethylbenzothiazole, D30 (0.135 g), HATU (0.228 g), diisopropylethylamine (0.300 ml) and 5-(4-fluorophenyl)-2-methylthiazol-4-carboxylic acid (0.144 g) were dissolved in dry DMF and shaken at room temperature for 16 hours. The solvent was then evaporated and the residue partitioned between dichloromethane and brine. The organic layer was dried (MgSO4), evaporated and the residue chromatographed over silica gel. Elution with diethyl ether provided the title compound as a foam (220 mg).

reactant | 2-Piperidin-2-ylmethylbenzothiazole | N1C(CCCC1)CC=1SC2=C(N1)C=CC=C2 | C13H16N2S
reactant | HATU | 0.228 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.300 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-(4-fluorophenyl)-2-methylthiazol-4-carboxylic acid | 0.144 g | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)O | C11H8FNO2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Benzothiazol-2-ylmethylpiperidin-1-yl-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]-methanone | 220 mg | S1C(=NC2=C1C=CC=C2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C24H22FN3OS2
